Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
R arm tingling and weakness
 
Major Surgical or Invasive Procedure:
MRI and MRV completed

 
History of Present Illness:
Ms. ___ is a ___ yr old right-handed female with MCTD/SLE, 
on
coumadin and plavix for a right radial artery thrombosis INR 1.9
who p/w complains of L side paresthesia.

Patient reports that on the night from ___ to thurday at
1am she woke-up with a sharp pain that initiated on the L face
and spread to the L arm and leg within 20min. After the pain she
developed tingling and numbness on the L face, arm and leg that
remained in this way. She thought that she could move the left
side very well but she fell asleep again.

The following day the paresthesia on the L side persisted and 
she
also thought that she was dropping objects. She decided to
present to ED. She reports that she has been able to walk. She
denies language problems, dysarthria or visual symptoms.

General ROS positive for dry mouth, muscle weakness, and general
fatigue.

 
Past Medical History:
SLE/MCTD 
Raynaud's
Arthritis
Miscarriage x2
hypothyroidism
migraine HA's
Hypertension
Herniated nucleus pulposis of lumbar region with chronic low 
back pain, leg weakness, numbness

 
Social History:
___
Family History:
Maternal grandmother and aunt with stomach cancer. Maternal 
uncle
with leukemia. No clotting disorders to patient's knowledge.

 
Physical Exam:
T- 98.4     BP-119/82      HR-75      RR- 16     O2Sat-100%RA
Gen: Lying in bed, NAD
HEENT: NC/AT, moist oral mucosa   
Neck: No tenderness to palpation, normal ROM, supple, no carotid
or vertebral bruit
Back: No point tenderness or erythema
CV: RRR, no murmurs/gallops/rubs 
Lung: Clear to auscultation bilaterally 
Abd: +BS, soft, nontender 
Ext: No edema
 
Neurologic examination: 
Mental status: Awake and alert, cooperative with exam, normal 
affect.  Oriented to person, place, and date.  Attentive, says
___ backwards.  Speech is fluent with normal comprehension and
repetition; naming intact. No dysarthria. Reading and writing
intact.  Registers ___, recalls ___ in 5 minutes.  No right left
confusion. No evidence of apraxia or neglect.
 
Cranial Nerves:  
II: Pupils equally round and reactive to light, 4 to 2 mm
bilaterally. Visual fields are full to confrontation. 
Fundoscopic
exam normal with sharp disc margins.
III, IV & VI: Extraocular movements intact bilaterally. Fine
nystagmus appreciated during lateral gaze only but not midline 
or
downward gaze.
V: Decreased Sensation intact to PP on L side V1-V3  
VII: Facial movement symmetric.  
VIII: Hearing intact to finger rub bilaterally.  
X: Palate elevation symmetrical.  
XI: Sternocleidomastoid and trapezius normal bilaterally. 
XII: Tongue midline, movements intact
 
Motor: 
Normal bulk and tone bilaterally. No observed myoclonus or
tremor. No asterixis or pronator drift
  Del Tri Bi  WE FE FF  IP  H  Q  DF PF 
R  ___    ___   ___  5  5  
L  5-  5-  ___  ___  ___   
 
Sensation: Decreased sensation to pinprick on L face V1-V3, arm
and leg, circumferentially. Normal graphestesia and two point
discrimination. Normal proprioception.
 
Reflexes: 
+2 and symmetric throughout.  
Toes downgoing bilaterally 
 
Coordination: FTN, FTF and RAMs normal. 
 
Gait: Narrow based, steady.  Able to tandem walk and Romberg
negative.

 
Pertinent Results:
CBC was normal except for a slightly low overall WBC count. INR 
was initially subtherapeutic, but on discharge it was 
therapeutic at 2.5. Chem-10, FLP, and HgbA1C were normal. 
 
Brief Hospital Course:
Pt was admitted with sensory sx on the left side and HA. MRI and 
MRV brain was negative for new stroke or venous sinus 
thrombosis. Given her history of migraines, it was ultimately 
felt this was a complicated migraine. Her INR was slightly 
subtherapeutic on admission, thus her coumadin was increased 
from 5 mg to 7.5 mg during this admission. On discharge, her INR 
was 2.5 and she was instructed to follow up with her PCP 
regarding INR checks. Medications otherwise were unchanged. 
 
Medications on Admission:
coumadin 5mg daily
Clopidogrel 75mg PO daily
revatio 20mg TID
citalopram 60mg
Vit D 800 units PO daily
Calcium carbonate 500mg PO TID
lyrica 150mg BID
norteytiline 25mg pm
Prednisone 10mg PO daily 
methotrexate 250mg Q week
Levothyroxine 50mcg PO daily
Hydroxychloroquine 200mg PO BID
Amlodipine 10mg PO daily

 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Sildenafil 20 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
3. Citalopram 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. Pregabalin 75 mg Capsule Sig: Two (2) Capsule PO BID (2 times 
a day).  
5. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Nortriptyline 25 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
7. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Hydroxychloroquine 200 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
9. Prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Coumadin 5 mg Tablet Sig: 1.5 Tablets PO once a day.  

1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Sildenafil 20 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
3. Citalopram 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. Pregabalin 75 mg Capsule Sig: Two (2) Capsule PO BID (2 times 
a day).  
5. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Nortriptyline 25 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
7. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Hydroxychloroquine 200 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
9. Prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Coumadin 5 mg Tablet Sig: 1.5 Tablets PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Complicated migraine
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Please continue current medication regimine.
 
Followup Instructions:
___